US06949542B2
4-[3-(4,6-Dimethyl-pyridin-3-yl)-phenyl]-7-ethoxy-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-{3-[3-(4,6-dimethyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M232) (340 mg, 0.595 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a white solid (148 mg, 55%).

reactant | (2-{3-[3-(4,6-dimethyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.595 mmol, 340 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1C)C)=O)=O | C30H32F3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(4,6-Dimethyl-pyridin-3-yl)-phenyl]-7-ethoxy-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=C(C=NC(=C1)C)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)OCC)C(F)(F)F | C25H22F3N3O2
